2176-01-24 06:20:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2176-1-23**] 08:40 AM
 EKG - At [**2176-1-23**] 10:29 AM
 MULTI LUMEN - START [**2176-1-23**] 10:37 AM
 ARTERIAL LINE - START [**2176-1-23**] 11:12 AM
 MULTI LUMEN - START [**2176-1-23**] 04:15 PM
 TRANSTHORACIC ECHO - At [**2176-1-23**] 04:45 PM
 DIALYSIS CATHETER - START [**2176-1-23**] 07:00 PM
   placed prior to my shift, assessed and transduced via VIP port by this
   RN
 MULTI LUMEN - STOP [**2176-1-23**] 10:00 PM
   [**2176-1-23**] Events
   - L IJ placed, then discontinued as was in axillary vein
   - Renal consulted started CVVH
   - Discontinued high dose insulin drip and d 10 W drip as not clear that
   he actually took CCBs
   - Gave 1L of 150mEq of Bicarb with D5W
   - Replaced total of 8 mg of Mag
   - Replaced Phos 30mEq
   - Sugars stayed low overnight after receiving high dose insulin,
   required much D50
   - Increased RR to 32 given hypercarbia
   - Replaced Calcium 4gm
   - CVVH stopped because filter clotted, [**Name (NI) 161**] renal for citrate
   infusions
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Norepinephrine - 0.23 mcg/Kg/min
   Midazolam (Versed) - 10 mg/hour
   Dopamine - 1.5 mcg/Kg/min
   Cisatracurium - 0.06 mg/Kg/hour
   Fentanyl - 300 mcg/hour
   Phenylephrine - 1.7 mcg/Kg/min
   Other ICU medications:
   Insulin - Regular - [**2176-1-23**] 10:45 AM
   Midazolam (Versed) - [**2176-1-23**] 01:32 PM
   Fentanyl - [**2176-1-23**] 01:42 PM
   Dextrose 50% - [**2176-1-24**] 01:36 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2176-1-24**] 06:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 36.1
C (97
   HR: 82 (80 - 106) bpm
   BP: 110/58(73) {88/41(57) - 127/66(264)} mmHg
   RR: 28 (16 - 34) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 17 (12 - 17)mmHg
   Total In:
                                                                  9,529 mL
                                                                  3,240 mL
   PO:
   TF:
   IVF:
                                                                  9,404 mL
                                                                  3,190 mL
   Blood products:
   Total out:
                                                                  2,068 mL
                                                                  1,986 mL
   Urine:
                                                                  1,595 mL
                                                                    770 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  7,461 mL
                                                                  1,254 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 650 (550 - 650) mL
   RR (Set): 28
   RR (Spontaneous): 0
   PEEP: 15 cmH2O
   FiO2: 70%
   RSBI Deferred: PEEP > 10
   PIP: 32 cmH2O
   Plateau: 26 cmH2O
   Compliance: 59.1 cmH2O/mL
   SpO2: 100%
   ABG: 7.38/35/114/20/-3
   Ve: 17.9 L/min
   PaO2 / FiO2: 163
   Physical Examination
   General Intubated and sedated obese man +charcoal in ET tube
   HEENT Pupils dilated to ~5mm but reactive, charcoal draining from OGT
   Neck Unable to assess JVP secondary to habitus
   Pulm Lungs with bronchial breath sounds bilaterally, no wheezing or
   rales
   CV Regular S1 S2 no m/r/g
   Abd Obese nontender +bowel sounds soft
   Extrem Warm well perfused full distal pulses
   Neuro Sedated
   Labs / Radiology
   256 K/uL
   12.0 g/dL
   76 mg/dL
   2.2 mg/dL
   20 mEq/L
   3.8 mEq/L
   20 mg/dL
   106 mEq/L
   139 mEq/L
   35.5 %
   24.8 K/uL
        [image002.jpg]
                             [**2176-1-23**]  01:42 PM
                             [**2176-1-23**]  02:52 PM
                             [**2176-1-23**]  04:36 PM
                             [**2176-1-23**]  06:46 PM
                             [**2176-1-23**]  06:58 PM
                             [**2176-1-23**]  08:54 PM
                             [**2176-1-24**]  12:30 AM
                             [**2176-1-24**]  04:30 AM
                             [**2176-1-24**]  04:39 AM
                             [**2176-1-24**]  05:36 AM
   WBC
   24.8
   Hct
   35.5
   Plt
   256
   Cr
   2.6
   2.2
   TropT
   0.08
   TCO2
   11
   13
   13
   15
   18
   20
   21
   22
   Glucose
   116
   76
   Other labs: PT / PTT / INR:13.5/73.4/1.2, CK / CKMB /
   Troponin-T:278/15/0.08, Lactic Acid:3.8 mmol/L, Ca++:6.9 mg/dL,
   Mg++:2.3 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   This 54 year old man with history of depression presents following
   overdose and seizure.
   .
   #. Metabolic Acidosis:  Lactic acidosis secondary to metformin
   ingestion.  The patient yesterday had evidence of a non-gap acidosis as
   well, which has since resolved since we have discontinued NS and used
   D5W with bicarb instead for volume resuscitation.  Will continue to
   hold NS as will worsen acidosis by increasing chloride.
   - Currently off bicarbonate drip, but will trend ABG and if worsening
   acidosis, can restart
   - The patient underwent CVVH last night, but filter clotted, most
   likely will need to restart today, see below.
   - Vent settings better tolerated with sedation, off paralytics,
   continue to wean sedation
   - Follow toxicology recommendations
   .
   #. Hypotension:  Most likely secondary to overdose and metabolic
   acidosis.  Currently on three pressors, will wean as tolerated.
 TTE
   did not show evidence of cardiac failure
   - Continue neo/levophed/dopa and wean as tolerated
   - treating o/d as above
   .
   #.  Hypoxic Respiratory Failure:  Patient had witnessed aspiration
   following administration of charcoal. Probably has an aspiration
   pneumonitis however does not explain significant hypoxia.  Unclear
   cause, however looks as though there is shunt physiology involved
   - Holding off on antibiotics for now, but will start empirically if
   patient spikes a temp
   - Follow sputum cultures
   - Bronch likely today
   - Continue to oxygenate with increased PEEP and FiO2, attempt to wean
   as tolerated
   - Off paralytics, wean sedation as tolerated
   .
   #. Leukocytosis:  Most likely secondary to stress response / post
   seizure, but in setting of lactic acidosis also need to rule out
   infection.
   - Continue to trend
   - f/u blood, sputum and urine cultures
   - hold off on further antibiotics in evidence of fever/other evidence
   for infection
   .
   #. Acute renal failure:  Baseline Cr uncertain.  Most likely secondary
   to lactic acidosis.  BUN/Cr<20:1 less consistent with a pre-renal
   etiology. In setting of hypotension ATN is an obvious concern.
   - follow UA, urine lytes
   - follow urine output
   - renally dose meds
   - Will likely need to restart CVVH as improved initially with dialysis,
   but now worsening Crn.
   - Replete electrolytes as needed
   .
   #. h/o seizure:  ? Related to overdose. No evidence for CNS infection.
   - Seizure precautions, attempt to obtain further records, will need
   neuro f/u
   - Need to clarify EtoH history
   .
   #. Elevated PTT:  Resolved.  In setting of normal INR - ?heparin
   exposure, consider lupus anticoagulant or vWF. No bleeding.
   - trend INR/PTT
   - active type and screen
   .
   #. Anemia:  Mild anemia, unknown baseline
   - Check PM hct
   - retic, smear, iron panel, b12, folate
   .
   #. Diabetes mellitus:
   - Holding metformin given recent ingestion
   - discontinued insulin drip yesterday, as no evidence of CCB
   ingestion.
   .
   #. Hypothyroidism
   - holding levothyroxine given recent ingestion
   .
   #. HTN
   - Holding antihypertensives while hypotensive
   .
   #. Psych:
   - On board, will follow when patient awake
   - Will attempt to get in touch with outpatient psychiatrist
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 HYPOGLYCEMIA
 ACIDOSIS, METABOLIC
 [**Last Name 9**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 HYPOTENSION (NOT SHOCK)
   ICU Care
   Nutrition: NPO for now, NGT in place
   Glycemic Control:
   Lines:
   Multi Lumen - [**2176-1-23**] 10:37 AM
   20 Gauge - [**2176-1-23**] 10:37 AM
   Arterial Line - [**2176-1-23**] 11:12 AM
   Dialysis Catheter - [**2176-1-23**] 07:00 PM
   Prophylaxis:
   DVT:  Heparin SC TID
   Stress ulcer:
   Communication:  Comments:
   Code status: Full code
   Disposition:  Remain in the ICU

2176-01-25 07:04:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 MULTI LUMEN - STOP [**2176-1-24**] 05:49 PM
 EKG - At [**2176-1-25**] 06:34 AM
   -UOP stable overnight
   -PM lytes stable, but worsening Cr, likely ATN per renal
   -mixed venous 02 67
   -EKG improved, no terminal R, PR interval 160
   -Weaning down on pressors, but heart rate also trending down.
   -Ca replacemnt
   -Repeat EKG for bradycardia to 40s
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Norepinephrine - 0.08 mcg/Kg/min
   Midazolam (Versed) - 3 mg/hour
   Fentanyl - 125 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2176-1-24**] 11:52 AM
   Heparin Sodium (Prophylaxis) - [**2176-1-25**] 01:56 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2176-1-25**] 07:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 37.3
C (99.1
   HR: 40 (40 - 78) bpm
   BP: 130/51(67) {95/51(67) - 130/76(81)} mmHg
   RR: 21 (9 - 28) insp/min
   SpO2: 95%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 75 Inch
    CVP: 16 (14 - 17)mmHg
   CO/CI (Fick): (6.1 L/min) / (2.5 L/min/m2)
   Mixed Venous O2% Sat: 67 - 67
   Total In:
                                                                  6,530 mL
                                                                    421 mL
   PO:
   TF:
   IVF:
                                                                  6,480 mL
                                                                    421 mL
   Blood products:
   Total out:
                                                                  3,241 mL
                                                                    520 mL
   Urine:
                                                                  1,475 mL
                                                                    520 mL
   NG:
                                                                    550 mL
   Stool:
   Drains:
   Balance:
                                                                  3,289 mL
                                                                    -99 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 650 (650 - 650) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 15 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 35 cmH2O
   Plateau: 23 cmH2O
   Compliance: 81.2 cmH2O/mL
   SpO2: 95%
   ABG: 7.44/33/87.[**Numeric Identifier 7**]/22/0
   Ve: 15 L/min
   PaO2 / FiO2: 220
   Physical Examination
   General Intubated and sedated obese man
   HEENT Pupils reactive
   Neck Unable to assess JVP secondary to habitus
   Pulm Lungs with clear anteriorly without rales
   CV Slow S1 S2
   Abd Obese nontender +bowel sounds soft
   Extrem Warm well perfused full distal pulses
   Neuro Sedated, able to open eyes and follow commands
   Labs / Radiology
   229 K/uL
   11.1 g/dL
   165 mg/dL
   3.3 mg/dL
   22 mEq/L
   4.9 mEq/L
   29 mg/dL
   102 mEq/L
   134 mEq/L
   31.0 %
   15.6 K/uL
        [image002.jpg]
                             [**2176-1-24**]  06:24 AM
                             [**2176-1-24**]  08:20 AM
                             [**2176-1-24**]  08:39 AM
                             [**2176-1-24**]  11:52 AM
                             [**2176-1-24**]  03:56 PM
                             [**2176-1-24**]  04:12 PM
                             [**2176-1-24**]  08:35 PM
                             [**2176-1-24**]  11:44 PM
                             [**2176-1-25**]  03:06 AM
                             [**2176-1-25**]  03:31 AM
   WBC
   20.7
   19.6
   15.6
   Hct
   33.0
   31.8
   31.0
   Plt
   243
   231
   229
   Cr
   2.5
   3.2
   3.3
   TCO2
   22
   23
   23
   24
   23
   24
   23
   Glucose
   151
   179
   165
   Other labs: PT / PTT / INR:13.6/35.0/1.2, CK / CKMB /
   Troponin-T:278/15/0.08, Lactic Acid:2.4 mmol/L, Ca++:7.9 mg/dL,
   Mg++:2.3 mg/dL, PO4:4.6 mg/dL
   Imaging: CXR: Improving aeration, ET Tube 2cm from Carina
   Microbiology: UCx: Negative
   TipCx: Pending
   Assessment and Plan
   This 54 year old man with history of depression presents following
   overdose and seizure.
   .
   #. Metabolic Acidosis:  Lactic acidosis secondary to metformin
   ingestion.  The patient yesterday had evidence of a non-gap acidosis as
   well, which has since resolved since we have discontinued NS and used
   D5W with bicarb instead for volume resuscitation.  Will continue to
   hold NS as will worsen acidosis by increasing chloride.
   - Currently off bicarbonate drip, but will trend ABG and if worsening
   acidosis, can restart
   - The patient underwent CVVH last night, but filter clotted, most
   likely will need to restart today, see below.
   - Vent settings better tolerated with sedation, off paralytics,
   continue to wean sedation
   - Follow toxicology recommendations
   .
   #. Hypotension:  Most likely secondary to overdose and metabolic
   acidosis.  Currently on three pressors, will wean as tolerated.
 TTE
   did not show evidence of cardiac failure
   - Continue neo/levophed/dopa and wean as tolerated
   - treating o/d as above
   .
   #.  Hypoxic Respiratory Failure:  Patient had witnessed aspiration
   following administration of charcoal. Probably has an aspiration
   pneumonitis however does not explain significant hypoxia.  Unclear
   cause, however looks as though there is shunt physiology involved
   - Holding off on antibiotics for now, but will start empirically if
   patient spikes a temp
   - Follow sputum cultures
   - Bronch likely today
   - Continue to oxygenate with increased PEEP and FiO2, attempt to wean
   as tolerated
   - Off paralytics, wean sedation as tolerated
   .
   #. Leukocytosis:  Most likely secondary to stress response / post
   seizure, but in setting of lactic acidosis also need to rule out
   infection.
   - Continue to trend
   - f/u blood, sputum and urine cultures
   - hold off on further antibiotics in evidence of fever/other evidence
   for infection
   .
   #. Acute renal failure:  Baseline Cr uncertain.  Most likely secondary
   to lactic acidosis.  BUN/Cr<20:1 less consistent with a pre-renal
   etiology. In setting of hypotension ATN is an obvious concern.
   - follow UA, urine lytes
   - follow urine output
   - renally dose meds
   - Will likely need to restart CVVH as improved initially with dialysis,
   but now worsening Crn.
   - Replete electrolytes as needed
   .
   #. h/o seizure:  ? Related to overdose. No evidence for CNS infection.
   - Seizure precautions, attempt to obtain further records, will need
   neuro f/u
   - Need to clarify EtoH history
   .
   #. Elevated PTT:  Resolved.  In setting of normal INR - ?heparin
   exposure, consider lupus anticoagulant or vWF. No bleeding.
   - trend INR/PTT
   - active type and screen
   .
   #. Anemia:  Mild anemia, unknown baseline
   - Check PM hct
   - retic, smear, iron panel, b12, folate
   .
   #. Diabetes mellitus:
   - Holding metformin given recent ingestion
   - discontinued insulin drip yesterday, as no evidence of CCB
   ingestion.
   .
   #. Hypothyroidism
   - holding levothyroxine given recent ingestion
   .
   #. HTN
   - Holding antihypertensives while hypotensive
   .
   #. Psych:
   - On board, will follow when patient awake
   - Will attempt to get in touch with outpatient psychiatrist
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2176-1-23**] 10:37 AM
   Arterial Line - [**2176-1-23**] 11:12 AM
   Dialysis Catheter - [**2176-1-23**] 07:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2176-01-26 07:12:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Off pressors
   - No CVVH indicated at this time
   - Psych following
   - Sedation required to keep intubated
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2176-1-25**] 09:59 AM
   Pantoprazole (Protonix) - [**2176-1-25**] 11:57 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2176-1-26**] 07:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.3
C (99.1
   HR: 73 (54 - 83) bpm
   BP: 120/56(76) {90/44(58) - 141/90(106)} mmHg
   RR: 14 (11 - 22) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 75 Inch
    CVP: 21 (17 - 22)mmHg
   Total In:
                                                                    673 mL
                                                                     71 mL
   PO:
   TF:
   IVF:
                                                                    673 mL
                                                                     71 mL
   Blood products:
   Total out:
                                                                  2,815 mL
                                                                  1,220 mL
   Urine:
                                                                  2,590 mL
                                                                  1,220 mL
   NG:
                                                                    225 mL
   Stool:
   Drains:
   Balance:
                                                                 -2,142 mL
                                                                 -1,149 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 650 (650 - 650) mL
   Vt (Spontaneous): 592 (592 - 1,093) mL
   PS : 5 cmH2O
   RR (Set): 16
   RR (Spontaneous): 12
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 22
   PIP: 14 cmH2O
   Plateau: 25 cmH2O
   Compliance: 38.2 cmH2O/mL
   SpO2: 93%
   ABG: 7.38/49/96.[**Numeric Identifier 7**]/28/2
   Ve: 8.6 L/min
   PaO2 / FiO2: 242
   Physical Examination
   General: Intubated obese man, interactive on exam
   HEENT Pupils reactive
   Neck: Unable to assess JVP secondary to line placement
   Pulm: Lungs with clear anteriorly without rales
   CV: S1 S2 regular without murmur
   Abd Obese nontender +bowel sounds soft
   Extrem Warm well perfused full distal pulses
   Neuro Sedated, able to open eyes and follow commands
   Labs / Radiology
   197 K/uL
   10.3 g/dL
   136 mg/dL
   2.8 mg/dL
   28 mEq/L
   4.5 mEq/L
   34 mg/dL
   103 mEq/L
   138 mEq/L
   29.1 %
   12.1 K/uL
        [image002.jpg]
                             [**2176-1-24**]  11:44 PM
                             [**2176-1-25**]  03:06 AM
                             [**2176-1-25**]  03:31 AM
                             [**2176-1-25**]  07:59 AM
                             [**2176-1-25**]  01:00 PM
                             [**2176-1-25**]  03:24 PM
                             [**2176-1-25**]  03:31 PM
                             [**2176-1-25**]  08:30 PM
                             [**2176-1-26**]  03:00 AM
                             [**2176-1-26**]  04:03 AM
   WBC
   15.6
   13.7
   12.1
   Hct
   31.0
   29.5
   28.6
   29.1
   Plt
   [**Telephone/Fax (3) 4090**]
   Cr
   3.3
   3.3
   3.1
   2.8
   TCO2
   24
   23
   27
   25
   26
   30
   Glucose
   165
   169
   124
   136
   Other labs: PT / PTT / INR:12.7/31.7/1.1, CK / CKMB /
   Troponin-T:278/15/0.08, ALT / AST:17/16, Alk Phos / T Bili:73/0.5,
   Amylase / Lipase:38/66, Lactic Acid:1.6 mmol/L, Albumin:2.8 g/dL,
   Ca++:7.9 mg/dL, Mg++:2.1 mg/dL, PO4:3.9 mg/dL
   Imaging: CXR: More opaque, decreased aeration.
   Microbiology: Cath Tip & BCx pending
   Assessment and Plan
   This 54 year old man with history of depression presents following
   overdose of Metformin and ?CCB with seizure.  He remains intubated but
   continues to improve clinically.
   1) Hypoxic Respiratory Failure:  Patient had witnessed aspiration
   following administration of charcoal. Probably has an aspiration
   pneumonitis however does not explain significant hypoxia.  Unclear
   cause, however looks as though there is shunt physiology involved.  He
   remains afebrile and WBC decreasing.  On rounds, patient desatted to
   90s and appeared diaphoretic.
   - Send ET sputum for gram stain and culture to guide Abx as likely
   focal process developing
   - Continue sedation & intubation for now
   2) Psych:  The patient has a history of depression and suicide
   attempts.
   - Psych recs appreciated
   - 1:1 sitter when extubated
   - Restart Risperidone, Wellbutrin, Lamictal per home regimen while
   awake
   3) Acute renal failure:  Baseline Cr uncertain but currently improving
   with good urine output.
   - follow urine output
   - renally dose meds
   - CVVH as needed
   - Replete electrolytes as needed
   4) Hypotension:  No longer requiring pressor support.  BP decreases
   during sleep and rises easily on waking.
   - Give fluid bolus PRN
   5) Metabolic Acidosis:  Currently resolved.  Will repeat CVVH prn.
   - Follow toxicology recommendations
   6) Leukocytosis:  Most likely secondary to stress response / post
   seizure, but in setting of lactic acidosis also need to rule out
   infection.  Trending down.
   - Continue to trend
   - f/u blood, sputum and urine cultures
   - hold off on further antibiotics in evidence of fever/other evidence
   for infection
   7) Anemia:  Mild anemia, unknown baseline
   - Check PM hct
   - retic, smear, iron panel, b12, folate
   8) Hypothyroidism
   - holding levothyroxine given recent ingestion
   FEN: TF today, IVF as needed for BP
   Access: R HD line, PIV
   Code: Full
   Communication: Patient
   Dispo: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2176-1-23**] 10:37 AM
   Arterial Line - [**2176-1-23**] 11:12 AM
   Dialysis Catheter - [**2176-1-23**] 07:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2176-01-27 06:53:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - The patient did not tolerate weaning sedation, restarted.
   - Psych did not recommend restarting any psychiatric medications
   - The patient was having episodes of apnea on PSV, was switched to CMV,
   he tolerated this MUCH better with less agitation, less hypertensive
 SPUTUM CULTURE - At [**2176-1-26**] 09:03 AM
 SPUTUM CULTURE - At [**2176-1-26**] 03:35 PM
   Allergies:
   Lactose-Free Food
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Fentanyl - 60 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2176-1-26**] 08:02 AM
   Haloperidol (Haldol) - [**2176-1-26**] 04:15 PM
   Heparin Sodium (Prophylaxis) - [**2176-1-26**] 06:05 PM
   Fentanyl - [**2176-1-27**] 01:03 AM
   Midazolam (Versed) - [**2176-1-27**] 01:03 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2176-1-27**] 06:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.2
C (98.9
   HR: 58 (58 - 85) bpm
   BP: 112/54(72) {103/52(68) - 169/83(108)} mmHg
   RR: 18 (12 - 20) insp/min
   SpO2: 95%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 75 Inch
             Total In:
                                                                    861 mL
                                                                    384 mL
   PO:
             TF:
                                                                    431 mL
                                                                    275 mL
   IVF:
                                                                    340 mL
                                                                    109 mL
   Blood products:
   Total out:
                                                                  3,610 mL
                                                                    795 mL
   Urine:
                                                                  3,610 mL
                                                                    795 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,749 mL
                                                                   -410 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 650 (650 - 650) mL
   Vt (Spontaneous): 620 (390 - 665) mL
   PS : 5 cmH2O
   RR (Set): 18
   RR (Spontaneous): 12
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 86
   PIP: 31 cmH2O
   Plateau: 14 cmH2O
   SpO2: 95%
   ABG: 7.47/41/113/28/5
   Ve: 13.6 L/min
   PaO2 / FiO2: 226
   Physical Examination
   General: Intubated obese man, interactive on exam and follows commands
   HEENT Pupils reactive
   Neck: Unable to assess JVP secondary to line placement
   Pulm: Lungs with clear anteriorly without rales
   CV: S1 S2 regular without murmur
   Abd Obese, minimally tender +bowel sounds soft
   Extrem Warm well perfused full distal pulses
   Neuro Sedated, able to open eyes and follow commands
   Labs / Radiology
   170 K/uL
   9.3 g/dL
   157 mg/dL
   1.6 mg/dL
   28 mEq/L
   4.3 mEq/L
   32 mg/dL
   102 mEq/L
   137 mEq/L
   26.1 %
   8.7 K/uL
        [image002.jpg]
                             [**2176-1-25**]  03:24 PM
                             [**2176-1-25**]  03:31 PM
                             [**2176-1-25**]  08:30 PM
                             [**2176-1-26**]  03:00 AM
                             [**2176-1-26**]  04:03 AM
                             [**2176-1-26**]  04:45 PM
                             [**2176-1-26**]  08:21 PM
                             [**2176-1-27**]  01:13 AM
                             [**2176-1-27**]  02:57 AM
                             [**2176-1-27**]  03:12 AM
   WBC
   13.7
   12.1
   8.7
   Hct
   29.5
   28.6
   29.1
   26.1
   Plt
   195
   197
   170
   Cr
   3.3
   3.1
   2.8
   2.0
   1.6
   TCO2
   26
   30
   27
   29
   31
   Glucose
   169
   124
   136
   101
   157
   Other labs: PT / PTT / INR:12.7/31.7/1.1, CK / CKMB /
   Troponin-T:278/15/0.08, ALT / AST:17/16, Alk Phos / T Bili:73/0.5,
   Amylase / Lipase:38/66, Lactic Acid:0.8 mmol/L, Albumin:2.8 g/dL,
   Ca++:8.0 mg/dL, Mg++:2.0 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
   This 54 year old man with history of depression presents following
   overdose of Metformin and ?CCB with seizure.  He remains intubated but
   continues to improve clinically.
   # Hypoxic Respiratory Failure:  Patient had witnessed aspiration
   following administration of charcoal. Probably has an aspiration
   pneumonitis however does not explain significant hypoxia.  Unclear
   cause, however looks as though there is shunt physiology involved.  He
   remains afebrile and WBC decreasing.  CXR this morning c/w diffused b/l
   infiltrates
   - Will hold on sputum specimens as it will likely not change management
   - Attempt a PS trial, give haldol 5 mg TID for sedation and try to wean
   off of fentanyl and midaz.  If needed will add propofol for sedation,
   but will try to extubate if suctioning becomes less frequent.
   # Psych:  The patient has a history of depression and suicide attempts.
   - Psych recs appreciated
   - 1:1 sitter when extubated
   - Will not Restart Risperidone, Wellbutrin, Lamictal at this time
   - Given haldol will get daily EKGs
   # Acute renal failure:  Baseline Cr uncertain but currently improving
   with good urine output.
   - follow urine output
   - renally dose meds
   - Replete electrolytes as needed
   - Appreciate renal input
   # Hypotension:  No longer requiring pressor support.  BP decreases
   during sleep and rises easily on waking.
   - Give fluid bolus PRN
   # Elevated lipase:
   -Will hold TF
   -continue to monitor WBC, abdominal pain, fluid shifts
   # Metabolic Acidosis:  Currently resolved, and trending more
   - Follow toxicology recommendations
   # Leukocytosis:  Most likely secondary to stress response / post
   seizure, but in setting of lactic acidosis also need to rule out
   infection.  Trending down.
   - Continue to trend
   - f/u blood, sputum and urine cultures
   - hold off on further antibiotics in evidence of fever/other evidence
   for infection
   7) Anemia:  Unknown baseline, but has consistently trended down since
   admission from 39.3- ? related to renal failure vs. hemolyis
   - Follow HCT, MCV in 90s
   - B12, folate normal, TIBC, transferrin low, Ferritin normal
   -Send retic, hemolysis labs
   8) Hypothyroidism
   - holding levothyroxine given recent ingestion
   FEN: TF today, IVF as needed for BP
   Access: R HD line, will attempt further access today
   Code: Full
   Communication: Patient
   Dispo: ICU
 BRADYCARDIA
 PSYCHIATRIC DISEASE, OTHER (INCLUDING SCHIZOPHRENIA, PERSONALITY
   DISORDERS)
 POISONING / OVERDOSE, OTHER
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 HYPOGLYCEMIA
 ACIDOSIS, METABOLIC
 [**Last Name 9**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 HYPOTENSION (NOT SHOCK)
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2176-1-27**] 01:41 AM 40 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2176-1-23**] 11:12 AM
   Dialysis Catheter - [**2176-1-23**] 07:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2176-01-28 07:05:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2176-1-27**] 05:15 PM
   -Sedated using Haldol 5 mg TID and propafol as needed, in attempt to
   wean fent/midaz-needs daily EKG, per psych decrease haldol to 2.5 TID
   with increased PRN.
   -Follow HCT-bump to 30.6
   -Extubated, remained hypertensive given haldol and ativan-pressures,
   still elevated, started on Nitro drip titrated to pressure <150
   -Per nurse: Desaturated with face shovel to low 90s, placed on face
   mask and did not increase so added nasal cannula.  Saturations improved
   while sleeping, and worsened while awake.
   -Patient vomited ?bilious material in AM
I threw up and I am still nauseated
   Allergies:
   Lactose-Free Food
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Nitroglycerin - 1.5 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2176-1-27**] 08:00 AM
   Midazolam (Versed) - [**2176-1-27**] 08:00 AM
   Fentanyl - [**2176-1-27**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2176-1-28**] 07:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.4
C (97.6
   HR: 83 (54 - 83) bpm
   BP: 181/72(104) {107/52(69) - 212/96(127)} mmHg
   RR: 21 (11 - 22) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 75 Inch
             Total In:
                                                                    589 mL
                                                                    185 mL
   PO:
             TF:
                                                                    307 mL
   IVF:
                                                                    282 mL
                                                                    185 mL
   Blood products:
   Total out:
                                                                  2,750 mL
                                                                    800 mL
   Urine:
                                                                  2,750 mL
                                                                    700 mL
   NG:
   100 mL
   Stool:
   Drains:
   Balance:
                                                                 -2,161 mL
                                                                   -615 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   Ventilator mode: Standby
   Vt (Set): 650 (650 - 650) mL
   Vt (Spontaneous): 635 (635 - 635) mL
   PS : 5 cmH2O
   RR (Set): 18
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 100%
   PIP: 6 cmH2O
   Plateau: 16 cmH2O
   SpO2: 96%
   ABG: 7.42/43/122/27/3
   Ve: 10.8 L/min
   PaO2 / FiO2: 122
   Physical Examination
   Gen: Obese man lying comfortably in bed, coughing
   Neck: No JVD appreciated
   CV: S1 & S2 regular without murmur
   Pulm: Decreased breath sounds, Wheezes on R side
   Abd: Bowel sounds present, diffusely tender, no guarding or rebound
   Ext: 2+ DP, no edema
   Neuro: Awake & alert, slow to respond, odd, childlike affect
   Labs / Radiology
   217 K/uL
   10.3 g/dL
   121 mg/dL
   1.3 mg/dL
   27 mEq/L
   4.7 mEq/L
   27 mg/dL
   103 mEq/L
   139 mEq/L
   28.9 %
   11.4 K/uL
        [image002.jpg]
                             [**2176-1-26**]  08:21 PM
                             [**2176-1-27**]  01:13 AM
                             [**2176-1-27**]  02:57 AM
                             [**2176-1-27**]  03:12 AM
                             [**2176-1-27**]  04:03 PM
                             [**2176-1-27**]  10:14 PM
                             [**2176-1-27**]  10:26 PM
                             [**2176-1-28**]  03:26 AM
                             [**2176-1-28**]  03:37 AM
                             [**2176-1-28**]  05:23 AM
   WBC
   8.7
   11.0
   11.4
   Hct
   26.1
   30.6
   28.9
   Plt
   170
   205
   217
   Cr
   1.6
   1.3
   TCO2
   27
   29
   31
   30
   28
   31
   29
   Glucose
   157
   121
   Other labs: PT / PTT / INR:12.7/31.7/1.1, CK / CKMB /
   Troponin-T:278/15/0.08, ALT / AST:17/16, Alk Phos / T Bili:73/0.5,
   Amylase / Lipase:38/66, Lactic Acid:0.8 mmol/L, Albumin:2.8 g/dL,
   Ca++:8.0 mg/dL, Mg++:2.0 mg/dL, PO4:3.5 mg/dL
   Imaging: CXR: ET tube removed, RLL infiltratrate appears to be slightly
   larger
   Microbiology: Sputum Gram stain contaminated
   Legonella (-)
   Tip Cx: (-)
   Assessment and Plan
   This 54 year old man with history of depression presents following
   overdose of Metformin and ?CCB with seizure.  He remains intubated but
   continues to improve clinically.
   # Hypoxic Respiratory Failure:  He remains afebrile but with increasing
   WBC.
   - Extubated, tolerating face mask now
   - Will hold on sputum specimens as it will likely not change management
   - LENI for questionable PE on CXR per radiology
   # Psych:  The patient has a history of depression and suicide attempts.
   - Psych recs appreciated
   - 1:1 sitter when extubated
   - Will not Restart Risperidone, Wellbutrin, Lamictal at this time
   - Given haldol will get daily EKGs
   # Acute renal failure:  Baseline Cr uncertain but rapidly improving
   with good urine output.
   - follow urine output
   - renally dose meds
   - Replete electrolytes as needed
   - Appreciate renal input
   #Ileus: Patient nauseated/vomiting today without bowel movement
   -          KUB to evaluate for bowel loops/free air
   -          Aggressive bowel regiment
   # Hypertension:  Paitent
s BP 150s
   -          Wean Nitrodrip
   -          Amlodipine 5mg when tolerating PO
   # Elevated lipase:
   -continue to monitor WBC, abdominal pain, fluid shifts
   # Metabolic Acidosis:  Currently resolved, and trending more
   - Follow toxicology recommendations
   # Leukocytosis:  Most likely secondary to stress response / post
   seizure, but in setting of lactic acidosis also need to rule out
   infection.  Trending down.
   - Continue to trend
   - f/u blood, sputum and urine cultures
   - hold off on further antibiotics in evidence of fever/other evidence
   for infection
   7) Anemia:  Unknown baseline, but has consistently trended down since
   admission from 39.3- ? related to renal failure vs. hemolyis
   - Follow HCT, MCV in 90s
   - B12, folate normal, TIBC, transferrin low, Ferritin normal
   -Send retic, hemolysis labs
   8) Hypothyroidism
   - Restart Levothyroxine 50mcg IV now to 112mcg PO when tolerating PO
   FEN: Begin clears today
   Access: R HD line
   Code: Full
   Communication: Patient
   Dispo: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2176-1-23**] 11:12 AM
   Dialysis Catheter - [**2176-1-23**] 07:00 PM
   18 Gauge - [**2176-1-27**] 11:19 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: